US04656273
Production of N-(2,3-dihydro-benzo[b]furan-7-sulfonyl)-N'-(4-dimethylamino-6-methoxy-1,3,5-triazin-2-yl)-urea
8,0 g of 2,3-dihydro-7-sulfamoyl-benzo[b]furan (0,04 mol) and 7,1 g of diphenyl carbonate (0,04 mol) and 150 ml of acetonitrile are stirred together. To this suspension are added dropwise at 0°-5° C. 7,1 g (0,05 mol) of 1,8-diazabicyclo(5,4,0)-undec-7-ene DBU and the resulting solution is left to stand for 15 hours at room temperature. These are then added dropwise 4,4 g (0,045 mol) of methanesulfonic acid at 0°-5° C. An addition of 6,8 g (0,04 mol) of 2-amino-4-dimethylamino-6-methoxy-triazine is subsequently made and the resulting suspension is refluxed for two hours and the resulting turbid hot solution is filtered.

reactant | 2,3-dihydro-7-sulfamoyl-benzo[b]furan | 0,04 mol, 8,0 g | S(N)(=O)(=O)C1=CC=CC2=C1OCC2 | C8H9NO3S
reactant | diphenyl carbonate | 0,04 mol, 7,1 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | 1,8-diazabicyclo(5,4,0)-undec-7-ene DBU | 0,05 mol, 7,1 g | N12CCCCCC2=NCCC1.C1CCC2=NCCCN2CC1 | 2C9H16N2
reactant | methanesulfonic acid | 0,045 mol, 4,4 g | CS(=O)(=O)O | CH4O3S
reactant | 2-amino-4-dimethylamino-6-methoxy-triazine | 0,04 mol, 6,8 g | NN1NC(=CC(=N1)N(C)C)OC | C6H13N5O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-(2,3-dihydro-benzo[b]furan-7-sulfonyl)-N'-(4-dimethylamino-6-methoxy-1,3,5-triazin-2-yl)-urea | O1C2=C(CC1)C=CC=C2S(=O)(=O)NC(=O)NC2=NC(=NC(=N2)N(C)C)OC | C15H18N6O5S
